US04861780
3-Ethyl-2-(2-pyridylmethylthio)-4(3H)-quinazolinone
7.0 ml of 28% methanolic solution of sodium methoxide and 2.82 g of 2-chloromethylpyridine hydrochloride were added, in turn, to a solution of 3.56 g of 3-ethyl-2-mercapto-4(3H)-quinazolinone in 50 ml of methanol, and the stirring was continued at room temperature for 4 hours. The reaction solution was poured into about 300 ml of water and extracted with chloroform. The extract was dried over sodium sulfate and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether, to give 2.47 g of the title compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-chloromethylpyridine hydrochloride | 2.82 g | Cl.ClCC1=NC=CC=C1
reactant | 3-ethyl-2-mercapto-4(3H)-quinazolinone | 3.56 g | C(C)N1C(=NC2=CC=CC=C2C1=O)S | C10H10N2OS
reactant | water | about 300 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 3-Ethyl-2-(2-pyridylmethylthio)-4(3H)-quinazolinone | 2.47 g | C(C)N1C(=NC2=CC=CC=C2C1=O)SCC1=NC=CC=C1 | C16H15N3OS
